US05084085
In a manner similar to Step D of Example 1, the reaction of 1.3 g (0.0029 mole) of 1-[2,4-dichloro-5-(2-chloro-4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one with 0.73 g (0.0044 mole) of methyl 2-bromopropionate and 0.60 g (0.0044 mole) of potassium carbonate in 60 ml of methyl ethyl ketone yielded 0.78 g of methyl 2-[4-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro -3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]-3-chlorophenoxy]propionate as an oil, compound 150 of Table 1.

reactant | 1-[2,4-dichloro-5-(2-chloro-4-hydroxyphenoxy)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0029 mole, 1.3 g | ClC1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)O)Cl)N1N=C(N(C1=O)C(F)F)C | C16H10Cl3F2N3O3
reactant | methyl 2-bromopropionate | 0.0044 mole, 0.73 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 0.0044 mole, 0.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
product | methyl 2-[4-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro -3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]-3-chlorophenoxy]propionate | 0.78 g | ClC1=C(OC2=C(C=C(OC(C(=O)OC)C)C=C2)Cl)C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C | C20H16Cl3F2N3O5
